US06680047B2
iii) Synthesis of 4-[2-hydroxy-3-[(1-methylethyl)amino]-propoxy]phenylacetic acid hydrochloride
4-[2-hydroxy-3-[(1-methylethyl)amino]-propoxy]phenylacetate (563 mg, 2.00 mmol) in 6 M hydrochloric acid (15 ml) was heated at 100° C. for 4 h. The reaction mixture was concentrated (rotavapor) and the residue was taken up in water and lyophilised. 1H and 13C NMR spectra were in accordance with the structure and MALDI mass spectrometry gave a M+H at 268 as expected.

reactant | 4-[2-hydroxy-3-[(1-methylethyl)amino]-propoxy]phenylacetate | 2.00 mmol, 563 mg | OC(COC1=CC=C(C=C1)CC(=O)[O-])CNC(C)C
reactant | hydrochloric acid | 6 M, 15 ml | Cl | ClH
product | 4-[2-hydroxy-3-[(1-methylethyl)amino]-propoxy]phenylacetic acid hydrochloride | Cl.OC(COC1=CC=C(C=C1)CC(=O)O)CNC(C)C | InChI=1S/C14H21NO4.ClH/c1-10(2)15-8-12(16)9-19-13-5-3-11(4-6-13)7-14(17)18;/h3-6,10,12,15-16H,7-9H2,1-2H3,(H,17,18);1H
